US07186749B2
A mixture of 6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthol (200 mg, 0.701 mmol), prepared in step 5 of Example 1, dimethyl 4-(bromomethyl)isophthalate (241 mg, 0.841 mmol) and cesium carbonate (1.14 g, 3.50 mmol) in 50 mL of acetone was stirred at room temperature for 1.5 h. The reaction was concentrated under reduced pressure to remove the acetone. The residue was partitioned between methylene chloride and water. The aqueous layer was separated and extracted two times with methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give a yellow solid. Purification of the solid on a Biotage Horizon™ system with a KP-SIL Flash 40+M column using a gradient of 85% methylene chloride in hexane to 100% methylene chloride as the eluent gave dimethyl 4-({[6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}methyl)isophthalate (280 mg, 81%) as a yellow solid, mp 203–205° C. Elemental Analysis for C31H25NO5.0.10 CH2Cl2 Calc'd: C, 74.70; H, 5.08; N, 2.80. Found: C, 74.24; H, 4.80; N, 2.76.

reactant | 6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthol | 0.701 mmol, 200 mg | C1(=CC=CC=C1)C1=CC=C(N1)C=1C=C2C=CC(=CC2=CC1)O | C20H15NO
reactant | dimethyl 4-(bromomethyl)isophthalate | 0.841 mmol, 241 mg | BrCC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C11H11BrO4
reactant | cesium carbonate | 3.50 mmol, 1.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | dimethyl 4-({[6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}methyl)isophthalate | 280 mg, 81% | C1(=CC=CC=C1)C1=CC=C(N1)C=1C=C2C=CC(=CC2=CC1)OCC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C31H25NO5
